US09260408B2
1-(5-Bromo-pyridin-3-ylmethyl)-piperidin-2-one
In analogy to the procedure described for the preparation of intermediates A-12 [B], piperidin-2-one was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in the presence of NaH to give the title compound as a colorless oil. MS: 269.2, 271.2 (M+H+).

reactant | piperidin-2-one | N1C(CCCC1)=O | C5H9NO
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 1-(5-Bromo-pyridin-3-ylmethyl)-piperidin-2-one | BrC=1C=C(C=NC1)CN1C(CCCC1)=O | C11H13BrN2O
